US04288385
Preparation of 5-[(1-Ethylpropyl)amino]-2-methylbenzyl acetate
A mixture of 2-methyl-5-nitrobenzyl acetate (25.0 g; 0.12 mol), diethyl ketone (100 ml), β-naphthalene sulfonic acid (1.8 g) and 5% Pt/C catalyst (2.5 g; 62% wet weight) is hydrogenated in a Parr shaking apparatus until the hydrogen uptake ceases. The mixture is cooled down, filtered, and the filtrate concentrated in vacuo. The residue is dissolved in methylene chloride, the solution washed with water, dried over magnesium sulfate, and is evaporated to leave a brown oil (27.7 g; 92.7%). A sample of this oil is distilled (boiling point 120°-122° C. at 0.1 mm) for analysis.

reactant | 2-methyl-5-nitrobenzyl acetate | 0.12 mol, 25.0 g | C(C)(=O)OCC1=C(C=CC(=C1)[N+](=O)[O-])C | C10H11NO4
reactant | β-naphthalene sulfonic acid | 1.8 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | 2.5 g | [Pt] | Pt
solvent | diethyl ketone | 100 ml | C(C)C(=O)CC | C5H10O
product | 5-[(1-Ethylpropyl)amino]-2-methylbenzyl acetate | C(C)(=O)OCC1=C(C=CC(=C1)NC(CC)CC)C | C15H23NO2
